US06228859B1
The above crude 3-(3-benzyloxy-4-methoxy-benzyl)-8-(1-benzyloxy-1-methyl-ethyl)-6-ethylamino-3H-purine hydrochloride (3.28 g, 5.7 mmole) was hydrogenated at room temperature and pressure in a mixture of THF:methanol 1:1 (60 ml) with 10% Pd-C (0.66 g). The catalyst was filtered off, the solvents evaporated in vacuo and the residue crystallized from acetone to give 6-ethylamino-3-(3-hydroxy-4-methoxy-benzyl)-8-(1-hydroxy-1-methyl-ethyl)-3H-purine hydrochloride (1.80 g, 80.0%), mp 184-185° C.

reactant | 3-(3-benzyloxy-4-methoxy-benzyl)-8-(1-benzyloxy-1-methyl-ethyl)-6-ethylamino-3H-purine hydrochloride | 5.7 mmole, 3.28 g | Cl.C(C1=CC=CC=C1)OC=1C=C(CN2C=NC(=C3N=C(N=C23)C(C)(C)OCC2=CC=CC=C2)NCC)C=CC1OC
solvent | THF methanol | 60 ml | C1CCOC1.CO
catalyst | Pd-C | 0.66 g | [Pd] | Pd
product | 6-ethylamino-3-(3-hydroxy-4-methoxy-benzyl)-8-(1-hydroxy-1-methyl-ethyl)-3H-purine hydrochloride | 1.80 g, 80.0% | Cl.C(C)NC1=C2N=C(N=C2N(C=N1)CC1=CC(=C(C=C1)OC)O)C(C)(C)O | InChI=1S/C18H23N5O3.ClH/c1-5-19-15-14-16(22-17(21-14)18(2,3)25)23(10-20-15)9-11-6-7-13(26-4)12(24)8-11;/h6-8,10,19,24-25H,5,9H2,1-4H3;1H
